US06552022B1
4′-Trifluoromethl-biphenyl-2-carboxylic Acid [4-[4-(3-cyano-benzyl)-piperazin-1-yl]-phenyl]-amide hydrochloride Salt
To a solution of 4′-trifluoromehtyl-biphenyl-2-carboxylic acid [4-[4-(3-cyano-benzyl)-piperazin-1-yl]-phenyl]-amide (0.2 g) in AcOEt (25 mL) was added 1N hydrochloric acid (0.9 mL) and the resulting solution was stirred at room temperature for 1.5 hours. The solution was then evaporated to dryness and the solid was recrystallized from AcOEt/hexane to give the title compound (0.18 g) as a white power.

reactant | 4′-trifluoromehtyl-biphenyl-2-carboxylic acid [4-[4-(3-cyano-benzyl)-piperazin-1-yl]-phenyl]-amide | 0.2 g | C(#N)C=1C=C(CN2CCN(CC2)C2=CC=C(C=C2)NC(=O)C=2C(=CC=CC2)C2=CC=C(C=C2)C(F)(F)F)C=CC1 | C32H27F3N4O
reactant | hydrochloric acid | 1N, 0.9 mL | Cl | ClH
solvent | AcOEt | 25 mL | CCOC(=O)C | C4H8O2
product | 4′-Trifluoromethl-biphenyl-2-carboxylic Acid [4-[4-(3-cyano-benzyl)-piperazin-1-yl]-phenyl]-amide hydrochloride Salt | 0.18 g | Cl.C(#N)C=1C=C(CN2CCN(CC2)C2=CC=C(C=C2)NC(=O)C=2C(=CC=CC2)C2=CC=C(C=C2)C(F)(F)F)C=CC1 | InChI=1S/C32H27F3N4O.ClH/c33-32(34,35)26-10-8-25(9-11-26)29-6-1-2-7-30(29)31(40)37-27-12-14-28(15-13-27)39-18-16-38(17-19-39)22-24-5-3-4-23(20-24)21-36;/h1-15,20H,16-19,22H2,(H,37,40);1H
